US04259263
A mixture comprising 5-methyl-2,2,4-trichoro-1,1,1-trifluorohexane (51.5 g), monoethanolamine (6.1 g), cuprous chloride (0.1 g) and dimethylformamide (100 ml) is stirred and heated at 96° C. (internal temperature) under a nitrogen atmosphere. When the initial green colour of the mixture is discharged further aliquots of monoethanolamine are added until a geen colour persists and GLC analysis shows that the starting material has been consumed. The reaction is complete after 5 hours. The crude product is isolated by precipitation with water, extraction with dichloromethane and removal of the solvent under reduced pressure. Distillation affords 2,4-dichloro-5-methyl-1,1,1,trifluorohex-2-ene (71%), b.p. 79°-82° C./100 mm Hg; 'Hnmr (CDCl3)τ9.2-8.8 (q, 6H); 8.2-7.8 (m, H); 5.6-5.3 (m, H); 3.9-3.4 (pair of doublets, H).

reactant | 5-methyl-2,2,4-trichoro-1,1,1-trifluorohexane | 51.5 g | CC(C(CC(C(F)(F)F)(Cl)Cl)Cl)C | C7H10Cl3F3
reactant | monoethanolamine | 6.1 g | C(O)CN | C2H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,4-dichloro-5-methyl-1,1,1,trifluorohex-2-ene | 71% | ClC(C(F)(F)F)=CC(C(C)C)Cl | C7H9Cl2F3
